US07544803B2
2′-Hydroxymethyl-biphenyl-4-carboxylic acid quinolin-7-ylamide.
To a solution of 2′-formyl-biphenyl-4-carboxylic acid quinolin-7-ylamide, Example 28, (90 mg, 0.25 mmol) in MeOH (2 mL) was added sodium borohydride (20 mg, 0.51 mmol) and the mixture was stirred for 10 min at 0° C. The reaction mixture was diluted with EtOAc (50 mL) and washed with satd NH4Cl (5 mL). The EtOAc layer was separated, washed with brine, dried over MgSO4, and filtered. The filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography (gradient, 40 to 90% EtOAc/hexane) to provide the title compound as a yellow amorphous solid. MS (ESI, pos. ion.) m/z: 355 (M+1).

reactant | 2′-formyl-biphenyl-4-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C=O | C23H16N2O2
reactant | sodium borohydride | 0.51 mmol, 20 mg | [BH4-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2′-Hydroxymethyl-biphenyl-4-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)CO | C23H18N2O2
